US04404205
2.52 g. of 2-amino-7-methyl-3,4,5,6-tetrahydro-2H-azepine are dissolved in 25 ml. of ethanol and the solution is added dropwise to a solution of 3.38 g. of ethoxy-methylene-cyanoacetate in 25 ml. ethanol at -5° C. The reaction mixture is stirred for 1 hour at -5° C. and allowed to warm up to room temperature and boiled for 1 hour. The solvent is evaporated. The residual oil is dissolved in 40 ml. of benzene and the solution is shaken out once with 10 ml. of 5% by W/V sodium carbonate solution and twice with 10 ml. of water. The benzene layer is dried above sodium sulphate and evaporated after filtration. The residual oil is crystallized from acetone. 1.26 g. (31%) 3-cyano-6-methyl-4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine is obtained melting at 154° C.

reactant | 2-amino-7-methyl-3,4,5,6-tetrahydro-2H-azepine | NC1N=C(CCCC1)C | C7H14N2
reactant | ethoxy-methylene-cyanoacetate | C(C)OC=C(C(=O)[O-])C#N
solvent | ethanol | C(C)O | C2H6O
product | 3-cyano-6-methyl-4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine | 31% | C(#N)C1=CN=C2N(C(CCCC2)C)C1=O | C11H13N3O
